Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was feeling anxiety and depression." 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation note by Dr. ___ 
dated ___, initial consultation note by Dr. ___ 
dated ___, and admission note by Dr. ___ 
dated ___.
.
Briefly, this is a ___ year old employed man, currently a senior 
at ___, no known formal psychiatric diagnoses, no prior 
psychiatric hospitalizations, who presented to ___ ED on a 
___ from his PCP's office after disclosing suicidal 
ideation in the setting of conflict with  his girlfriend 
.
Upon initial interview, patient reported he had been struggling 
with insomnia and panic attacks for ___ years after walking in on 
his now ex-girlfriend cheating on him, as well as depression. 
Reported he recently came back from ___ break in ___ 
about a week ago; prior to his vacation (approximately a month 
ago), patient stated he had been arguing with his girlfriend 
after she had found he was watching pornography. Mr. ___ 
reported feeling worthless and helpless and was disappointed in 
having relapsed with porn, stating he attempted to strangle 
himself with a necklace, but this was witnessed by his 
girlfriend who stopped him. During the time he as in ___, 
reported to Dr. ___ continued to feel "hopeless" depressed, 
worthless, guilty, with low energy, poor concentration and 
suicidal. Since returning from break, patient reported he 
continued to have the above symptoms, and on the night prior to 
presentation, his girlfriend found his search history, 
indicating he had been watching pornography again, leading to 
another conflict. Patient reported he had a PCP appointment on 
the day of presentation and disclosed to his PCP his ___-- 
patient was subsequently sectioned to the hospital. 
.
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
.
On initial interview with Mr. ___, he was cooperative, but 
apparently tended to minimize the history compared to prior 
examiners, patient reported he is "doing okay." Confirmed that 
he first felt depressed at approximately ___ years old but notes 
that more recently he has been depressed and anxious since 
approximately ___ after unexpectedly finding his girlfriend of 
several years in bed with another man while he was visiting her 
in ___. Reported that this was "traumatic" for him in that "I 
experienced a lot of different emotions-- depression, anxiety" 
and has been "up and down since then." Noted that initially he 
attempted to cope by using work as his outlet, but "overexerted" 
myself, working 40 hours per week and attending school full time 
to the point where he eventually had to quit. 
.
Mr. ___ went on to state he met his current girlfriend in the 
___, and noted this relationship has been difficult as 
well, noting that they "both had trust issues... she had been 
cheated on as well," and described her as "really controlling." 
They have been living together since ___ and patient confirmed 
they argue about his "porn addiction." Noted that she has caught 
him paying for porn, which made her quite upset, and states that 
conflict with her makes him more anxious and depressed. Although 
he denied that watching pornography was taking more than an hour 
per day and denied that it was interfering with his work or 
school, he did note that at times it is difficult for him to 
stop watching it, particularly when he is at home. 
.
Mr. ___ described his depression as "tending not to be social," 
stating when he is depressed he tends to write "about abstract 
things." Reported intermittent insomnia, stating that at times 
he will have difficulty falling asleep and staying asleep. 
Reported recently, however, aside from 1 day his sleep has been 
good. Denied anhedonia on examination, stating when depressed he 
still functions and is able to find other activities, such as 
soccer, which give him pleasure. Reported intermittent feelings 
of guilt, stating he does at times feel guilty regarding his 
"porn addiction," but also feels as if watching pornography is 
normal. Denied difficulties with energy, concentration, or 
appetite. Denied SI on admission examination, stating he "does 
start to hate myself" but denied that he wanted to end his life. 

.
In regards to the reported suicidal gestures, patient reported 
this was in the context of conflict with his girlfriend re: 
pornography. Reported he was quite stressed regarding this 
argument and noted his father, whom he is mostly estranged with, 
had been texting him while drunk. In this setting, patient 
reported strangling himself in front of his girlfriend with a
mouse cord, and noted a second incident approximately a week 
later under "the same circumstances." Denied that he wanted 
toend his life, stating, "I wanted an escape."  
.
On psychiatric review of systems, patient denied history of 
mania including decreased need for sleep, increased impulsivity, 
increased activity, grandiosity. Denied history of psychosis 
including AVH, paranoia, thought insertion or broadcasting. 
Denied panic attacks, although endorsed anxiety as noted above. 
Denied obsessive or compulsive tendencies. Denied drug or 
alcohol abuse. 
. 
 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: no formal diagnoses 
- SA/SIB: see above
- Hospitalizations: denies  
- Psychiatrist: denies, reported he had seen a psychiatrist in
___ once 
- Therapist: none 
- Medication Trials: none  
. 
Past Medical History: 
Bell's Palsy ___ 

 
Social History:
Social History: Per patient: born and raised in ___ as 
the only child. Parents divorced when he was ___ years old. Mr. 
___ noted a difficult childhood, noting he changed schools twice 
while in ___ and ___ moved to ___ with his 
mother at age ___, attending an ___ there. 
Endorsed history of bullying, noting he lost his front teeth
while young and that they did not come back in until age ___ 
years. Reported moving around was very difficult and that he was 
always having to make new friends. Also noted "always feeling 
confused" because he did not realize the finality of divorce 
when he was younger. Stated he is not close to his mother or his 
father. Mother currently is in ___ and works as a 
___ of an ___; patient reports he is 
relatively estranged from his father and does not know what he 
does for a living. Mr. ___ reported moving back from ___ 
to ___ when he was ___ years of age and stayed with a family 
friend. Attended high school in ___ at a ___ and 
then graduated high school, attending ___. Of 
note, on my examination, patient reported he found the school 
"great," and
is majoring in ___. Reported he lives in an 
apartment with his girlfriend as noted above, notes his 
grandparents are funding his education and living expenses. Did 
report some conflict during adolescence, stating that his family 
was pressuring him to enter the family business, which he did 
not want to do. Denied history of legal issues, denied access to 
guns. No children. 

 
Family History:
Family History: 
- Diagnoses: reports depression runs in paternal side of family 
and that father suffers from depression
- Suicides: denies 
- Alcohol: reports father with alcohol use 

 
Physical Exam:
Vital Signs: 98.5 PO BP: 128/83 HR: 70 RR: 17 O2 sat: 100% 

Mental Status Examination: 
A/B: Appears stated age, slightly disheveled but with good
hygiene and grooming, calm, cooperative with interviewer, good
eye contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directed
M: "okay" 
A: euthymic, mood congruent, apporpriate
TC: see above
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
M: short and long term memory grossly intact
I/J: fair/fair 

___ 06:34AM BLOOD Glucose: 93 UreaN: 11 Creat: 0.9 Na: 141
K: 4.5 Cl: 103 HCO3: 26 AnGap: 12 
___ 06:34AM BLOOD ALT: 10 AST: 16 AlkPhos: 39* TotBili: 0.7 

___ 06:34AM BLOOD Calcium: 9.3 Phos: 4.5 Mg: 2.1 Cholest:
183 
___ 06:34AM BLOOD %HbA1c: 4.9 eAG: 94 
___ 06:34AM BLOOD Cholest: 183 Triglyc: 47 HDL: 63 CHOL/HD:
2.9 LDLcalc: 111 
___ 06:34AM BLOOD TSH: 1.4 

 
Pertinent Results:
___ 05:10PM BLOOD WBC-5.4 RBC-4.31* Hgb-13.1* Hct-39.0* 
MCV-91 MCH-30.4 MCHC-33.6 RDW-12.5 RDWSD-41.3 Plt ___
___ 05:10PM BLOOD Neuts-46.1 ___ Monos-7.7 Eos-2.8 
Baso-0.6 Im ___ AbsNeut-2.51 AbsLymp-2.32 AbsMono-0.42 
AbsEos-0.15 AbsBaso-0.03
___ 06:34AM BLOOD Glucose-93 UreaN-11 Creat-0.9 Na-141 
K-4.5 Cl-103 HCO3-26 AnGap-12
___ 06:34AM BLOOD ALT-10 AST-16 AlkPhos-39* TotBili-0.7
___ 06:34AM BLOOD Calcium-9.3 Phos-4.5 Mg-2.1 Cholest-183
___ 06:34AM BLOOD %HbA1c-4.9 eAG-94
___ 06:34AM BLOOD Triglyc-47 HDL-63 CHOL/HD-2.9 LDLcalc-111
___ 06:34AM BLOOD TSH-1.4
___ 05:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:15PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
This is the complicated case of a ___ year old employed man, 
currently a senior at ___, no known formal psychiatric 
diagnoses, no prior psychiatric hospitalizations, who presented 
to ___ ED on a ___ from his PCP's office after 
disclosing suicidal ideation in the setting of conflict with his 
girlfriend. 
. 
History at this time is unclear, as Mr. ___ is an inconsistent 
historian, initially reporting significant depression with 
anhedonia, NVS and panic attacks upon initial interview with Dr. 
___ as well as active plan to cut himself or choke himself in 
the context of academic, relationship and family stressors. 
Reported nightmares/flashbacks and avoidance consistent with 
PTSD to Dr. ___ in the ED, although no clear history 
of trauma on my examination that would be consistent with PTSD. 
Also reported prominent insomnia, anhedonia, and feelings of 
guilt to the point where he has not been able to concentrate at 
school with drop in his GPA. However, on initial interview on 
the unit, patient provides a different history, noting 
intermittent depression and anxiety but reports that he copes 
with these feelings by distracting himself; denies that his mood 
or anxiety has interfered with his academic or work performance. 
Reports relationship difficulties, specifically conflict with 
his girlfriend regarding watching pornography and does admit 
that he has difficulty stopping, but denies watching it 
excessively and denies that it is interfering with his academic 
or work performance. Denied panic attacks on my examination. 
Mental status examination notable for an adequately groomed 
young man who is calm, cooperative, with "okay" mood, denial of 
SI, AVH, and with thought process that is notably linear, 
logical, goal and future oriented. 
. 
Diagnostically, etiology of presentation is unclear, 
particularly given the patient's unreliable reporting of 
symptoms. Differential is quite broad and includes primary mood 
disorder such as MDD, as well as adjustment disorder given 
temporal relationship to acutely stressful events, although on 
admission he does not appear dysthymic or dysphoric on my 
examination. No history of mania and he is certainly not 
manic/psychotic on my examination; however, given young age, 
bipolar disorder cannot be ruled at this time. Patient did 
report symptoms of PTSD, although does not endorse them on my 
examination and no clear history of trauma that would warrant a 
diagnosis of PTSD on my examination. Denies panic attacks on my 
examination, although certainly panic disorder and GAD is on the 
differential. I cannot rule out underlying emerging personality 
disorder given apparent impulsivity and lack of coping skills, 
particularly in the setting of an apparent chaotic childhood, 
but given his young age and lack of developmental history, I am 
reluctant to give him a diagnosis of personality disorder. 
Although there is a reported history of heavier drinking, 
patient denies current substance use and toxicology screen on 
admission was negative-- I do not believe substances are 
currently contributing to his presentation. In addition, given 
his young age and relatively good health, I'm doubtful that an 
underlying medical issue is contributing to his presentation. 
.
During admission, patient attended groups that focused on 
improving coping skills and felt that these interactions were 
helpful. He did not wish to initiate psychopharmacologic 
medications during this admission. On discharge, pt feels 
improved and back to baseline. He no longer endorses anxiety or 
depressive symptoms of hopelessness, worthlessness, low energy, 
poor concentration and guilt. He is looking forward to going 
home and is motivated to begin outpt therapy.  He is future 
oriented with concrete ideas regarding stress management and 
coping skills.  He denies SI, thoughts os self harm or HI. He 
feels safe return home, which he shares with his girlfriend. Of 
note, mental status examinations during this hospitalization 
were reassuring with good hygiene and grooming, relatively 
euthymic affect with consistent denial of SI or thoughts of self 
harm and thought process that was significantly linear, goal and 
future oriented. Of note, collateral was obtained from his 
girlfriend, who denied any safety concerns and felt safe having 
Mr. ___ return home. 
. 
#. Legal/Safety: Patient admitted to Deaconess ___ on a ___, upon admission, he signed a CV, which was accepted and also 
signed a 3 day notice that expired on day of discharge. Given 
his consistent denial of SI and thoughts of self harm, I did not 
believe he met criteria to file a section 7&8b. Of note, Mr. ___ 
maintained his safety throughout his hospitalization on 15 
minute checks and did not require physical or chemical 
restraints.
. 
#. Patient medically cleared in the ED, and had no acute issues 
during this hospitalization.
.
#. GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often attended 
these groups and was noted to be engaged while in groups. He was 
visible on the milieu and appropriately interacted with staff 
and peers.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
No Discharge Medications prescribed
1.  melatonin 5 mg oral QHS for insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder 

 
Discharge Condition:
-Appearance: Male appearing stated age, well groomed, wearing
hospital scrub pants, his own sweatshirt and black baseball cap,
in no apparent distress
-Behavior: Sitting up, appropriate eye contact, no psychomotor
agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: 'good'
-Affect: Euthymic, Mood-congruent, full range, appropriate to
situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content: Denies SI/HI. No evidence of paranoia, etc.
Denies AVH and does not appear to be attending to internal
stimuli
-Insight: Fair
-Judgment: Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___